US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(piperonyloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester
The title compound (2.96 g, 85%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol) and [6-N-(piperonyloxycarbonyl)-adenin-9-yl]-acetic acid (1.86 g, 5 mmol) as per the procedure of Example 20. 1H NMR (500 MHz; DMSO-d6) δ 10.63 (s, 1H), 8.98 (brs, 0.6H), 8.77 (brs, 0.4H), 8.57 (s, 0.4H), 8.52 (s, 0.6H), 8.29 (d, 1H), 8.27 (m, 1H), 8.17 (d, 1H), 7.65 (m, 2H), 7.04 (s, 1H), 6.94 (d, 1H), 6.90 (d, 1H), 6.01 (s, 2H), 5.36 (s, 1.2H), 5.15 (s, 0.8H), 5.10 (s, 2H), 4.45 (s, 0.8H), 4.17 (q, 0.8H), 4.07 (s, 1.2H), 4.01 (q, 1.2H), 3.70 (t, 1.2H), 3.48 (t, 1.2H), 3.41 (t, 0.8H), 3.22 (t, 0.8H), 1.23 (t, 1.2H), 1.12 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [6-N-(piperonyloxycarbonyl)-adenin-9-yl]-acetic acid | 5 mmol, 1.86 g | C(C1=CC=2OCOC2C=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C16H13N5O6
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(piperonyloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester | 2.96 g, 85% | C(C)OC(CN(C(CN1C2=NC=NC(=C2N=C1)NC(=O)OCC1=CC=2OCOC2C=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C29H28N8O9S2
